US06878728B1
(3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (4S,5R)-5-{[(2,3-dihydro-1,4-benzodioxin-6-ylsulfonyl)(isobutyl)amino]methyl}-4-(4-hydroxybenzyl)-2,2-dimethyl-1,3-oxazolidine-3-carboxylate
250 mg of (3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(2,3-dihydro-1,4-benzodioxin-6-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-(4-benzyloxybenzyl)propylcarbamate, 2 mL of 2,2-dimethoxypropane, 0.5 g of p-toluenesulfonic acid in 50 mL of dichloromethane were refluxed for 3 h and then extracted with sodium bicarbonate solution. Chromatography on silica gel (1:1 ehtylacetate/hexanes) gave 220 mg of the desired compound as an oil which was dissolved in methanol and hydrogenated (at 50 psi) over 5% palladium on carbon. Filtration and evaporation of the volatiles gave the desired title compound as an oil

reactant | (3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(2,3-dihydro-1,4-benzodioxin-6-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-(4-benzyloxybenzyl)propylcarbamate | 250 mg | O1CCOC2=C1C=CC(=C2)S(=O)(=O)N(C[C@H]([C@H](CC2=CC=C(C=C2)OCC2=CC=CC=C2)NC(O[C@H]2CO[C@H]1OCC[C@H]12)=O)O)CC(C)C | C36H44N2O10S
reactant | 2,2-dimethoxypropane | 2 mL | COC(C)(C)OC | C5H12O2
reactant | p-toluenesulfonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (4S,5R)-5-{[(2,3-dihydro-1,4-benzodioxin-6-ylsulfonyl)(isobutyl)amino]methyl}-4-(4-hydroxybenzyl)-2,2-dimethyl-1,3-oxazolidine-3-carboxylate | 220 mg | O1CCOC2=C1C=CC(=C2)S(=O)(=O)N(CC(C)C)C[C@@H]2[C@@H](N(C(O2)(C)C)C(=O)O[C@H]2CO[C@H]1OCC[C@H]12)CC1=CC=C(C=C1)O | C32H42N2O10S
